US20010009912A1
A solution of 690 mg (4-ethoxycarbonylmethylcyclohexyl)-acetic acid, 490 mg 1-(4-pyridyl)piperazine and 680 mg dicyclohexylcarbodiimide in 10 ml dimethylformamide is stirred for 48 h at room temperature. Subsequently the dimethylformamide is removed on a rotary evaporator, the residue is taken up in 10 ml water and the aqueous mixture is extracted three times with 10 ml methylene chloride each time. After drying the combined organic phases over sodium sulfate and removing the solvent, the product is purified by means of preparative HPLC (RP-18; methanol/buffer [pH 6.8]=7/3). 770 mg {4-[ 2-oxo-2-(4-pyridin-4-yl-piperazin-1-yl)-ethyl]-cyclohexyl} -acetic acid ethyl ester is obtained. m/e=373; 1-NMR (DMSO-d6): δ=8.18 ppm (d, 2H); 6.82 (d, 2H); 4.05 (q, 2H); 3.60 (broad s, 4H); 3.42 (broad s, 4H); 2.31 (dd, 2H); 2.15 (dd, 2H); 1.55 (m, 5H); 1.45 (m, 1H); 1.40 (m, 1H); 1.15 (t, 3H); 0.95 (broad t, 3H).

reactant | (4-ethoxycarbonylmethylcyclohexyl)-acetic acid | 690 mg | C(C)OC(=O)CC1CCC(CC1)CC(=O)O | C12H20O4
reactant | 1-(4-pyridyl)piperazine | 490 mg | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | dicyclohexylcarbodiimide | 680 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | {4-[ 2-oxo-2-(4-pyridin-4-yl-piperazin-1-yl)-ethyl]-cyclohexyl} -acetic acid ethyl ester | 770 mg | C(C)OC(CC1CCC(CC1)CC(N1CCN(CC1)C1=CC=NC=C1)=O)=O | C21H31N3O3
